US07795255B2
4,4-Dimethyl-2-pyrrolidinone (2.52 grams, 22.3 mmol) was added to a mixture of concentrated HCl (50 ml) and water (50 ml) and the resulting mixture refluxed at 120° C. for 20 hours. After cooling to room temperature the mixture was washed twice with dichloromethane. The aqueous layer was evaporated to give 4-amino-3,3-dimethyl-butyric acid hydrochloride (3.425 grams, 92% yield) as a white solid.

reactant | 4,4-Dimethyl-2-pyrrolidinone | 22.3 mmol, 2.52 grams | CC1(CC(NC1)=O)C | C6H11NO
reactant | HCl | 50 ml | Cl | ClH
reactant | water | 50 ml | O | H2O
product | 4-amino-3,3-dimethyl-butyric acid hydrochloride | 3.425 grams, 92% yield | Cl.NCC(CC(=O)O)(C)C | InChI=1S/C6H13NO2.ClH/c1-6(2,4-7)3-5(8)9;/h3-4,7H2,1-2H3,(H,8,9);1H
